US07511066B2
A. Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(dimethylamino)benzoate
The 4-dimethylamino compound was obtained in the following preparation in which the dimethylamino group was derived from in situ decomposition of the solvent DMF: A mixture of methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-fluorobenzoate (6.45 g, 18.25 mmol), morpholine (8 g, 91.26 mmol), Cs2CO3 (11.8 g, 36.5 mmol), and DMF (10 mL) was heated 3 days at 110° C. The reaction mixture was poured into brine (100 mL) and extracted with EtOAc (3×100 mL). The combined extracts were washed with brine (3×200 mL), dried over MgSO4, and concentrated to an oil which was purified by chromatography on silica using 25% EtOAc in hexanes to give 4.1 g (59%) of product as a white solid.

reactant | DMF | CN(C)C=O | C3H7NO
reactant | methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-fluorobenzoate | 18.25 mmol, 6.45 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)F | C18H24FNO5
reactant | morpholine | 91.26 mmol, 8 g | N1CCOCC1 | C4H9NO
reactant | Cs2CO3 | 36.5 mmol, 11.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(dimethylamino)benzoate | 4.1 g, 59% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)N(C)C | C20H30N2O5
